US08193189B2
8-Bromo-2-chloro-quinoxaline
A mixture of 2.0 g (ca. 7.64 mmol) 8-Bromo-1H-quinoxalin-2-one and 36 ml of POCl3 is heated to 50° C. for 16 h. After cooling, the excess of POCl3 is evaporated, water is then added and extracted 3× with CH2Cl2. The combined organic layers are successively washed with water, NaHCO3, saturated brine, dried over Na2SO4, filtered and the filtrate is concentrated in vacuo. The residue is purified by chromatography (silicagel, hexane:CH2Cl2=7:3=>1:1) to afford the title compound as a pale orange solid, MS: 243 (M)+

reactant | 8-Bromo-1H-quinoxalin-2-one | ca. 7.64 mmol, 2.0 g | BrC=1C=CC=C2N=CC(NC12)=O | C8H5BrN2O
reactant | POCl3 | 36 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | 8-Bromo-2-chloro-quinoxaline | BrC=1C=CC=C2N=CC(=NC12)Cl | C8H4BrClN2
